US07429583B2
c) 3-(3-amino-3-methyl-butyl)-3H-benzoxazol-2-one
11.0 g 3-(3-methyl-3-nitro-butyl)-3H-benzoxazol-2-one from the reaction described above are dissolved in 130 mL ethanol and hydrogenated with Raney nickel as catalyst at 5 bar for 20 hours. The catalyst is filtered off and the filtrate is freed from the solvent. 10% ethanolic hydrochloric acid is added, the solvent is distilled off and the residue is stirred in an acetone/diethyl ether mixture. White solid. Yield: 6.0 g (77% over 2 steps, hydrochloride); melting range=145-147° C.

reactant | 3-(3-methyl-3-nitro-butyl)-3H-benzoxazol-2-one | 11.0 g | CC(CCN1C(OC2=C1C=CC=C2)=O)(C)[N+](=O)[O-] | C12H14N2O4
solvent | ethanol | 130 mL | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 3-(3-amino-3-methyl-butyl)-3H-benzoxazol-2-one | NC(CCN1C(OC2=C1C=CC=C2)=O)(C)C | C12H16N2O2
